* C:\Users\Deepak\OneDrive\Documents\kARCA_v2\karca_v2\Docs\Simulations\Active_Filter.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N003 0 AC 1
V2 VDD 0 5
X§U1 N004 N005 VDD 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 N003 1k
R2 N004 N001 1k
C1 N004 0 680n
R3 N002 N005 47k
R4 N005 0 6.6k
C2 N002 N001 1µ
.ac dec 10 10 10k
.lib UniversalOpAmp2.lib
.backanno
.end
