* C:\Users\Deepak\Documents\kARCA_v2\karca_v2\Docs\Simulations\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
R1 v_out v_in 1k
C1 v_out 0 0.1µ
V1 N001 0 SINE(0 0.5 1k)
V2 v_in N001 SINE(0 50m 10k)
.tran 1
.backanno
.end
