* C:\Users\Deepak\OneDrive\Documents\kARCA_v2\karca_v2\Docs\Simulations\Draft3.asc
* Generated by LTspice 24.1.9 for Windows.
D1 N001 V_zener 1N750
R1 N001 0 10k
R2 N001 V_zener 20k
V1 V_zener 0 PULSE(0 6 0 0.5 0.5 1 2 2)
.model D D
.lib C:\Users\Deepak\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 5 0.1
.backanno
.end
